US08039490B2
N-(trans-4-{2-[4-(5-Fluoro-thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-acetamide
From (5-fluoro-thiophen-2-yl)-piperidin-4-yl-methanone hydrochloride (17 mg) and N-[trans-4-(2-oxo-ethyl)-cyclohexyl]-acetamide (20 mg, intermediate AG) by procedure A.2. Yield: 19 mg (73%). White solid. MS (m/z): 381.3 ([M+H]+).

reactant | (5-fluoro-thiophen-2-yl)-piperidin-4-yl-methanone hydrochloride | 17 mg | Cl.FC1=CC=C(S1)C(=O)C1CCNCC1
reactant | N-[trans-4-(2-oxo-ethyl)-cyclohexyl]-acetamide | 20 mg | O=CC[C@@H]1CC[C@H](CC1)NC(C)=O | C10H17NO2
product | N-(trans-4-{2-[4-(5-Fluoro-thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-acetamide | FC1=CC=C(S1)C(=O)C1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(C)=O | C20H29FN2O2S
